US04873228
Dimethyl 2-hydroxypyrimidine-4,6-dicarboxylate (1.42 g. 6.7 mmol) was dissolved in methanol (300 ml) and hydrogenated over 10% Pd/C catalyst. The reaction mixture was filtered and the methanol removed under reduced pressure. The crude product was recrystalized from methanol/ether to yield (4R*, 6R*)-dimethyl 2-oxo-hexahydropyrimidine-4,6-dicarboxylate (1.27 g, 88%) as colourless needles m.p. 178°-179°.

reactant | Dimethyl 2-hydroxypyrimidine-4,6-dicarboxylate | 6.7 mmol, 1.42 g | OC1=NC(=CC(=N1)C(=O)OC)C(=O)OC | C8H8N2O5
solvent | methanol | 300 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | dimethyl 2-oxo-hexahydropyrimidine-4,6-dicarboxylate | 1.27 g, 88% | O=C1NC(CC(N1)C(=O)OC)C(=O)OC | C8H12N2O5
